* klt-pex-native read-access-time testbench BODY (issue #95) -- a circuit
* body only, no `.control`/`.end`/analysis card of its own, per klt sim's
* own "netlist convention" (docs/cli/sim.md). See
* tb_write_access_time.pex.spice's header for the full rationale shared by
* both files in this directory (parallel artifact, not a substitute for the
* ratified #24 testbench; DUT `.include` swap convention; `rshunt`
* workaround; behavioral-source corner-VDD tracking).
*
* Proxy metric: same "bit-line sensing differential" proxy as the ratified
* sim/access-time/testbench/tb_read_access_time.spice (see that file's own
* header and sim/README.md "Read access time is a proxy metric" for why --
* no sense amp exists yet to measure a true clock-to-Q delay against).
* Path is relative to THIS file's own directory -- see
* tb_write_access_time.pex.spice's header for why (klt pex's own
* reference_netlist resolution vs. ngspice's nested-`.include` resolution
* disagree about the base directory; both only agree when cwd == this
* file's directory, which ../generate.sh arranges before invoking klt pex).
.include "/home/ubuntu/GitHub/gf180-sram/.loom/worktrees/issue-106/sim/pex/access-time/reports/klt-pex-artifacts/read-access-time/extracted-netlist.spice"
XDUT BL BLB Q QB VDD VSS WL sram_bitcell_6t

* See tb_write_access_time.pex.spice's header for why these six `.param`
* defaults (normally supplied by design.ngspice via corner.inc) are
* inlined here instead of `.include`d.
.param sw_stat_global=0
.param sw_stat_mismatch=0
.param mc_skew=3
.param res_mc_skew=3
.param cap_mc_skew=3
.param fnoicor=0

.options rshunt=1e12

VVDD VDD 0 DC 3.3
VVSS VSS 0 DC 0

* Bit-line switch model: fixed Vt=1.65V/Vh=0.1V (nominal-VDD-relative)
* rather than the ratified testbench's own per-corner `Vt='VDDC/2'
* Vh='VDDC*0.03'` -- this file's netlist body is corner-invariant text (see
* tb_write_access_time.pex.spice's header), so the switch threshold cannot
* itself track the swept VDD. This is a documented simplification, not a
* claim of equivalence to the ratified testbench's own threshold: PRE
* still swings rail-to-rail (0 to the corner's actual VDD, via the
* behavioral source below) at every point in the ratified 2.97-3.63V
* matrix, comfortably on either side of a fixed 1.65V/0.1V threshold
* either way, so the switch still behaves as a clean digital gate at every
* corner even though the threshold itself doesn't scale with it.
.model swmod SW(Ron=10 Roff=1e12 Vt=1.65 Vh=0.1)

* Bit-line capacitance: same single-bitcell-column placeholder as the
* ratified testbench (see that file's own header for why 20fF).
CBL BL 0 20f
CBLB BLB 0 20f

* Precharge: BL/BLB pulled to VDD until t=1n, then released (PRE falls) to
* float for the read -- same structure and timing as the ratified
* testbench, driven through VDD directly (this file has no separate
* PCHRAIL node since VDD is already the same real, alter'd circuit node).
VPRE_U PRE_U 0 PWL(0 1 1n 1 1.02n 0 5n 0)
BPRE PRE 0 V='V(PRE_U)*V(VDD)'
SBL BL VDD PRE 0 swmod
SBLB BLB VDD PRE 0 swmod

* WL asserted at t=1.1n, immediately after precharge release -- the read
* access under test, same timing as the ratified testbench.
VWL_U WL_U 0 PWL(0 0 1n 0 1.1n 1 5n 1)
BWL WL 0 V='V(WL_U)*V(VDD)'

* Preset to '0' -- see tb_write_access_time.pex.spice's header for why
* v(QB)=2.8V (a corner-invariant literal below the matrix's lowest
* supply) replaces the ratified testbench's own per-corner `.ic`.
.ic v(Q)=0 v(QB)=2.8
